US05202441
N,N'-Dihydroxy-N,N'-bis-(2,2,6,6-tetramethylpiperidin-4-yl)-hexamethylenediamine
from 2,2,6,6-tetramethylpiperidin-4-one oxime and 1,6-dibromohexane

reactant | 2,2,6,6-tetramethylpiperidin-4-one oxime | CC1(NC(CC(C1)=NO)(C)C)C | C9H18N2O
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | N,N'-Dihydroxy-N,N'-bis-(2,2,6,6-tetramethylpiperidin-4-yl)-hexamethylenediamine | ON(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)O)C1CC(NC(C1)(C)C)(C)C | C24H50N4O2
